US08067448B2
N′-((2R,3R)-3-(tert-Butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-4-nitrobenzohydrazide
To a pre-cooled (0° C.) solution of N′-((2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-nitrobenzohydrazide (12.0 g, 27.79 mmol) in DMF (650 mL) was added imidazole (15.13 g, 222.31 mmol) then TBSCl (16.75 g, 111.15 mmol). The reaction was warmed slowly to room temperature, stirred for 72 h, cooled to 0° C. and quenched with H2O (600 mL). The solution was extracted with EtOAc (700 mL). The organic extract was washed with H2O (2×300 mL) and 5% aq. citric acid (3×250 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to provide a light yellow oil, which was purified by flash chromatography over silica gel (30-40% EtOAc in hexanes) to provide the title compound as a colourless solid (8.50 g, 56%): 1H NMR (400 MHz, d6-DMSO, δ in ppm) 10.93 (s, 1H), 10.57 (s, 1H), 8.34 (dm, J=8.8 Hz, 2H), 8.07 (dm, J=9.0 Hz, 2H), 7.59 (d, J=8.6 Hz, 1H), 6.84 (d, J=9.0 Hz, 1H), 5.69 (d, J=8.4 Hz, 1H), 5.28 (s, 1H), 4.38 (pentet, J=6.3 Hz, 1H), 4.16 (dd, J=6.5, 8.0 Hz, 1H), 2.26 (s, 3H), 1.27 (d, J=6.3 Hz, 3H), 0.85 (s, 9H), 0.08 (s, 3H), 0.05 (s, 3H).

reactant | N′-((2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-nitrobenzohydrazide | 27.79 mmol, 12.0 g | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)NNC(C1=CC=C(C=C1)[N+](=O)[O-])=O)[C@@H](C)O)C | C19H18ClN5O5
reactant | imidazole | 222.31 mmol, 15.13 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 111.15 mmol, 16.75 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 650 mL | CN(C)C=O | C3H7NO
product | N′-((2R,3R)-3-(tert-Butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-4-nitrobenzohydrazide | 8.50 g, 56% | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](C(=O)NNC(C1=CC=C(C=C1)[N+](=O)[O-])=O)NC1=C(C(=C(C=C1)C#N)Cl)C)C | C25H32ClN5O5Si
